US08445118B2
(21) Aluminum Catecholate (Molecular Weight: 189)
A solution of catechol (3.30 g, 30.0 mmol) and toluene (45 ml) was dehydrated by distilling 5 mL of the solution. Thereafter, 4.08 g (20.0 mmol) of aluminum(III) isopropoxide was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled until the amount of the solution became half. After the distillation, volatile components of the residual mixed solution were vaporized under reduced pressure by a rotary evaporator. The residual solid content was further heated to 100° C. under vacuum using a vacuum dryer so that the remaining volatile components were completely removed. The solid content (catechol-aluminum complex) was green in color. The yield amount was 3.78 g (20.0 mmol), and the yield percentage was 100%. 1.89 g of catechol-aluminum complex was dissolved into 100 mL of 1:4 acetylacetone/toluene to produce a coating liquid.

reactant | catechol | 30.0 mmol, 3.30 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | aluminum(III) isopropoxide | 20.0 mmol, 4.08 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | Aluminum Catecholate | C=1([O-])C([O-])=CC=CC1.[Al+3].C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.[Al+3] | InChI=1S/3C6H6O2.2Al/c3*7-5-3-1-2-4-6(5)8;;/h3*1-4,7-8H;;/q;;;2*+3/p-6
